US06906072B1
Reference Example 30 3-cyano-5-thiophenecarboaldehyde
4-Bromo-2-thiophenecarboaldehyde (5.00 g) was dissolved in DMF (40 ml), and copper cyanide (3.52 g) was added thereto. After heating under reflux for 3 hours, the mixture was cooled as it was to room temperature and ethyl acetate was added thereto. The mixture was washed with an aqueous ammonia, water, 0.1N aqueous hydrochloric acid and further brine, dried over anhydrous magnesium sulfate and then evaporated. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate system), and then recrystallized from ethyl acetate-hexane, to give the title compound as pale yellowish white crystals (2.30 g, 71%).

reactant | 4-Bromo-2-thiophenecarboaldehyde | 5.00 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | copper cyanide | 3.52 g | [Cu](C#N)C#N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 3-cyano-5-thiophenecarboaldehyde | 2.30 g, 71% | C(#N)C1=CSC(=C1)C=O | C6H3NOS
